US05310739
3S ,4R )-1-amino-3-phenyl-4-methylocta hydropyrido[2,1-c][1,4]oxazine
This compound is prepared from (2S,3R,5S,8aR)-2-phenyl-3-methyl-5-cyanooxazolidino[3,2-a]piperidine by reduction with diisobutylaluminum hydride as in stage III of Example 1.

reactant | (2S,3R,5S,8aR)-2-phenyl-3-methyl-5-cyanooxazolidino[3,2-a]piperidine | C1(=CC=CC=C1)[C@H]1[C@H](N2[C@@H](CCC[C@H]2C#N)O1)C | C15H18N2O
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | 1-amino-3-phenyl-4-methylocta hydropyrido[2,1-c][1,4]oxazine | NC1OC(C(N2C1CCCC2)C)C2=CC=CC=C2 | C15H22N2O
